US09326513B2
Preparation of 5-Bromo-2-methyl-3-nitro-6-[2,2,2-trifluoro-1-[4-(trifluoromethyl)phenyl]ethoxy]pyridine
To a stirring suspension of 3-bromo-6-methyl-5-nitro-pyridin-2-ol (0.25 g, 1.07 mmol) in THF (7 mL), 2,2,2-trifluoro-1-[4-(trifluoromethyl)phenyl]ethanol (0.39 g, 1.61 mmol, 1.5 equiv) and triphenylphosphine (0.42 g, 1.61 mmol, 1.5 eq) were added at room temperature under inert atmosphere (Ar). To this mixture, DIAD (diisopropyl diazodicarboxylate) (0.33 mL, 1.61 mmol, 1.5 eq) was added dropwise over 10 minutes while keeping the temperature below 40° C. The reaction mixture was stirred for 6 h under heating at 60° C. After this time, TLC indicted that the starting material was consumed and the reaction mixture was allowed to reach room temperature before quenching with water (10 mL). The water phase was extracted with ethyl acetate (2×50 mL). The organic layer was washed with brine (20 mL), dried over anhydrous Na2SO4 and filtered. The solvent was removed in vacuo to give a brown residue, which was purified by combiflash column chromatography (silica gel, heptane/ethyl acetate, v/v=95/5). Fractions containing the pure compound were collected and concentrated in vacuo to give the title compound (0.18 g, 41% yield) as a yellow oil.

reactant | 3-bromo-6-methyl-5-nitro-pyridin-2-ol | 1.07 mmol, 0.25 g | BrC=1C(=NC(=C(C1)[N+](=O)[O-])C)O | C6H5BrN2O3
reactant | 2,2,2-trifluoro-1-[4-(trifluoromethyl)phenyl]ethanol | 1.61 mmol, 0.39 g, 1.5 equiv | FC(C(O)C1=CC=C(C=C1)C(F)(F)F)(F)F | C9H6F6O
reactant | triphenylphosphine | 1.61 mmol, 0.42 g, 1.5 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.61 mmol, 0.33 mL, 1.5 eq | [N+](=[N-])(C(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 5-Bromo-2-methyl-3-nitro-6-[2,2,2-trifluoro-1-[4-(trifluoromethyl)phenyl]ethoxy]pyridine | 0.18 g, 41% yield | BrC=1C=C(C(=NC1OC(C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C)[N+](=O)[O-] | C15H9BrF6N2O3
